US07745446B2
F2. (E)-1-(3-Bromo-phenyl)-5-methoxy-pent-4-ene-1,3-dione
In a 1 ltr flask is cooled a solution of lithium hexamethyldisilazide (65 ml, 1.5 M) in THF (250 ml) to 75 ° C. During a period of 1 h is added 4-methoxy-but-3-en-2-one (7 ml). The mixture is stirred for 1 h at −70° C. A solution of 3-bromobenzoylchloride (6 g) in THF (250 ml) is added to the above mixture during 1 h at −70° C. The resulting mixture is slowly heated to ambient temperature and stirred for 1 h. Subsequently, the mixture is added to a cold aqueous solution of ammonium chloride and the resulting suspension is extracted with ethyl acetate. The organic phase is extracted twice with an aqueous solution of ammonium chloride, dried over sodium sulfate and evaporated. The crude oily product is transferred to the next step without any further purification.

reactant | lithium hexamethyldisilazide | 1.5 M, 65 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-methoxy-but-3-en-2-one | 7 ml | COC=CC(C)=O | C5H8O2
reactant | 3-bromobenzoylchloride | 6 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (E)-1-(3-Bromo-phenyl)-5-methoxy-pent-4-ene-1,3-dione | BrC=1C=C(C=CC1)C(CC(\C=C\OC)=O)=O | C12H11BrO3
